US06949542B2
{2-[3-Oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino}-4-phenylethynyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert-butyl ester {CAS-No. [335255-26-0]} (231 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester (Example K3) (223 mg, 0.75 mmol) according to the general procedure M. Obtained as an off-white solid (313 mg, 44%).

reactant | (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)N)=O | C19H20N2O2
reactant | 3-oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O | C18H19NO3
product | {2-[3-Oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino}-4-phenylethynyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)NC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O)=O | C33H29N3O4
